US04892966
16.58 g (120 mmol) of potassium carbonate and 0.46 g (2 mmol) of benzyltriethylammonium chloride are suspended in 50 ml of acetonitrile. While stirring there are added thereto 14.60 g (100 mmol) of methyl 4-methoxyacetoacetate and there are added dropwise thereto within 10 minutes 15.97 g (150 mmol) of 3-chloro-2-butanone. The mixture is stirred at 20°-25° C. for a further 65 hours. The reaction mixture is poured on to 70 ml of 4N HCl/ice (pH value=1) and extracted 3 times with 100 ml of ethyl acetate each time. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator. The crude product distils at 95° C./0.05 mbar and gives 6.67 g (42%) of methyl 4-methoxy-2-[1-methylacetonyl]-acetoacetate.

reactant | potassium carbonate | 120 mmol, 16.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-methoxyacetoacetate | 100 mmol, 14.60 g | COCC(CC(=O)OC)=O | C6H10O4
reactant | 3-chloro-2-butanone | 150 mmol, 15.97 g | ClC(C(C)=O)C | C4H7ClO
catalyst | benzyltriethylammonium chloride | 2 mmol, 0.46 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | methyl 4-methoxy-2-[1-methylacetonyl]-acetoacetate | 6.67 g, 42% | COCC(C(C(=O)OC)C(C(=O)C)C)=O | C10H16O5
